US07935688B2
(1) Synthesis of 4-{1-ethyl-1-[4-(1-hydroxy-cyclohexylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol
Triethylamine (8.0 mL, 57.6 mmol), tetrakistriphenylphosphine palladium (2.2 g, 1.92 mmol) and cuprous iodide (0.36 g, 1.92 mmol) were added to a solution of trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester (Example 1-(1); 8.0 g, 19.2 mmol) and 1-ethynyl-cyclohexanol (3.5 g, 28.8 mmol) in acetonitrile (96 mL), and the mixture was stirred at 110° C. for 1.5 hours. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=4/1) to give the title compound (4.75 g, 63%).

reactant | Triethylamine | 57.6 mmol, 8.0 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester | 19.2 mmol, 8.0 g | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C20H23F3O4S
reactant | 1-ethynyl-cyclohexanol | 28.8 mmol, 3.5 g | C(#C)C1(CCCCC1)O | C8H12O
solvent | acetonitrile | 96 mL | C(C)#N | C2H3N
product | 4-{1-ethyl-1-[4-(1-hydroxy-cyclohexylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol | 4.75 g, 63% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCCC1)O)C)C1=CC(=C(C=C1)O)C | C27H34O2
